US09145372B2
A solution of methyl 3-chloro-5-phenylpyridazine-4-carboxylate (300 mg, 1.20 mmol) in 1,4-dioxane (15 mL), distilled water (5 mL), sodium carbonate (256 mg, 2.41 mmol) and phenyl boronic acid (1.91 g, 1.57 mmol) were added and the reaction mixture was degassed for 10 min, followed by addition of tetrakis(triphenylphosphine) palladium (139 mg, 0.12 mmol) and refluxed at 100° C. for 12 h under argon atmosphere. After the completion of starting materials, the reaction mixture was cooled to rt and filtered through a celite pad to remove the solid impurities. The filtrate was diluted with ethyl acetate (40 mL), washed with aq NaHCO3 (5 mL×1), brine solution (5 mL×1) and dried over anhydrous Na2SO4. The organic extracts were evaporated under reduced pressure to obtain the crude product which was purified by column chromatography (100-200 mesh silica gel, 5% EtOAc in hexane) to furnish methyl 3,5-diphenylpyridazine-4-carboxylate (300 mg, 82%) as a white solid.

reactant | methyl 3-chloro-5-phenylpyridazine-4-carboxylate | 1.20 mmol, 300 mg | ClC=1N=NC=C(C1C(=O)OC)C1=CC=CC=C1 | C12H9ClN2O2
reactant | water | 5 mL | O | H2O
reactant | sodium carbonate | 2.41 mmol, 256 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenyl boronic acid | 1.57 mmol, 1.91 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.12 mmol, 139 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 3,5-diphenylpyridazine-4-carboxylate | 300 mg, 82% | C1(=CC=CC=C1)C=1N=NC=C(C1C(=O)OC)C1=CC=CC=C1 | C18H14N2O2
